US07238808B2
5-[5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-phenyl)-3-ethynyl-7-trifluoromethyl pyrazolo[1,5-a]pyrimidine (example C.4) (161 mg, 0.5 mmol) and 5-bromo-2,4-difluoro-benzenesulfonamide (136 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (146 mg, 57%). MS (ISP) 513.3 [(M+H)+]; mp 292–293° C.

reactant | 5-(4-chloro-phenyl)-3-ethynyl-7-trifluoromethyl pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 161 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H7ClF3N3
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 0.5 mmol, 136 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 5-[5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C(=CC(=C(C2)S(=O)(=O)N)F)F | C21H10ClF5N4O2S
